US05698580
4-Methylphthalic acid (1.40 g, 7.8 mmol) was dissolved in tetrahydrofuran (80 ml) under an argon atmosphere, and lithium aluminum hydride (742 mg, 19.5 mmol) was added, which was followed by reflux under heating for 4 hours. Water was added to the reaction mixture on an ice bath, and the mixture was extracted with ethyl acetate. The organic extract was washed successively with saturated aqueous potassium sodium tartrate solution, water and saturated brine, dried over anhydrous sodium sulfate, filtered and concentrated. The obtained residue was separated and purified by silica gel column chromatography [developing solution: a mixed solution of ethyl acetate and hexane (volume ratio 2:3)] to give 759 mg of 3,4-dihydroxymethyltoluene (yield 64%).

reactant | 4-Methylphthalic acid | 7.8 mmol, 1.40 g | CC=1C=C(C(C(=O)O)=CC1)C(=O)O | C9H8O4
reactant | lithium aluminum hydride | 19.5 mmol, 742 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 3,4-dihydroxymethyltoluene | 759 mg, yield 64% | OCC=1C=C(C=CC1CO)C | C9H12O2
